US08067621B2
Step 4: 2-[(4-Chloro-benzenesulfonyl)-(2,3,6-trifluoro-phenyl)-methyl]-propane-1,3-diol
2-[(4-Chloro-phenylsulfanyl)-(2,3,6-trifluoro-phenyl)-methyl]-malonic acid dimethyl ester (7.1 g, 17 mmol) was dissolved in 50 mL THF and DIBAL-H (1M in hexane, 68 mL) was added. The reaction was stirred at room temperature overnight. 100 mL of water was added to quench the reaction and 100 mL EtOAc was added to extract the product. The organic layer washed with 1N HCl solution (2×50 mL), brine (50 mL), dried over Na2SO4 and concentrated. The residue was dissolved in 200 mL DCM and mCPBA (77%, 7.6 g, 34 mmol) was added. The reaction was stirred at room temperature for three hours. 8 g Na2SO3 in 50 mL of water was added to quench excess mCPBA. The organic layer was separated, washed with 1N NaOH solution, brine, dried over Na2SO4 and concentrated. The product was purified by column using EtOAc/hex as the eluent (gradient from 0/100 to 75/25 in 40 min, 2.7 g, 40%). 1H NMR (CDCl3 400 MHz) δ 7.59 (m, 2H), 7.36 (m, 2H), 7.06 (m, 1H), 6.81 (m, 0.5H), 6.57 (m, 0.5H), 5.26 (d, J=11.0 Hz, 1H), 4.65 (m, 1H), 4.20 (dt, J=11.7 and 2.2 Hz, 1H), 3.93 (m, 1H), 3.42 (m, 1H), 3.02 (m, 1H).

reactant | 2-[(4-Chloro-phenylsulfanyl)-(2,3,6-trifluoro-phenyl)-methyl]-malonic acid dimethyl ester | 17 mmol, 7.1 g | COC(C(C(=O)OC)C(C1=C(C(=CC=C1F)F)F)SC1=CC=C(C=C1)Cl)=O | C18H14ClF3O4S
reactant | DIBAL-H | 1M, 68 mL | CC(C)C[AlH]CC(C)C
reactant | m-Chloroperoxybenzoic acid | 34 mmol, 7.6 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | Na2SO3 | 8 g | [O-]S(=O)[O-].[Na+].[Na+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | water | 50 mL | O | H2O
solvent | water | 100 mL | O | H2O
product | 2-[(4-Chloro-benzenesulfonyl)-(2,3,6-trifluoro-phenyl)-methyl]-propane-1,3-diol | ClC1=CC=C(C=C1)S(=O)(=O)C(C(CO)CO)C1=C(C(=CC=C1F)F)F | C16H14ClF3O4S
